US05292767
To a solution of 2,5-diethoxycarbonyltetrahydrothiophene (2.4 g) in ethanol (10 ml), potassium hydroxide (0.64 g) dissolved in ethanol (10 ml) was added dropwise and the mixture was stirred for 1 hour at room temperature. To the reaction mixture, diethyl ether and water were added. Aqueous layer was acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to give 1.6 g (78%) of 2-carboxy-5-ethoxycarbonyltetrahydrothiophene.

reactant | 2,5-diethoxycarbonyltetrahydrothiophene | 2.4 g | C(C)OC(=O)C1SC(CC1)C(=O)OCC | C10H16O4S
reactant | potassium hydroxide | 0.64 g | [OH-].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-carboxy-5-ethoxycarbonyltetrahydrothiophene | 1.6 g, 78% | C(=O)(O)C1SC(CC1)C(=O)OCC | C8H12O4S
